### PR TITLE
[Merged by Bors] - feat: analytic part of Lindemann-Weierstrass

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
Co-authored-by: FR <zhao.yu-yang@foxmail.com>

---

From #6718.

I have to admit I still only understand part of it, so (concrete) suggestions definitely welcome.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Transcendental/Lindemann/Init/AnalyticalPart.lean [hunk 1]
```diff
@@ -0,0 +1,206 @@
...
+import Mathlib.Algebra.Polynomial.SumIteratedDerivative
+import Mathlib.Analysis.Calculus.Deriv.Polynomial
+import Mathlib.Analysis.SpecialFunctions.ExpDeriv
+import Mathlib.MeasureTheory.Integral.FundThmCalculus
+import Mathlib.RingTheory.Int.Basic
+import Mathlib.Topology.Algebra.Polynomial
+
+/-!
+# The Lindemann-Weierstrass theorem
+-/
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Transcendental/Lindemann/Init/AnalyticalPart.lean:15]: This needs a bit more words... As stated, it looks like this file proves the whole theorem.

File: Mathlib/NumberTheory/Transcendental/Lindemann/Init/AnalyticalPart.lean [hunk 2]
```diff
@@ -0,0 +1,206 @@
...
+theorem integral_exp_mul_eval (p : ℂ[X]) (s : ℂ) :
+    s * ∫ x in (0)..1, exp (-(x • s)) * p.eval (x • s) =
+      -(exp (-s) * p.sumIDeriv.eval s) + p.sumIDeriv.eval 0 := by
+  rw [← intervalIntegral.integral_const_mul,
+    intervalIntegral.integral_eq_sub_of_hasDerivAt
+      (fun x hx => hasDerivAt_cexp_mul_sumIDeriv p s x)
+      (ContinuousOn.intervalIntegrable (by fun_prop))]
+  simp
+
+private def P (p : ℂ[X]) (s : ℂ) :=
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Transcendental/Lindemann/Init/AnalyticalPart.lean:47]: Even though (or maybe exactly because) this is a private definition, I think it is good to add a docstring explaining the raison d'être of this `P`.

File: Mathlib/NumberTheory/Transcendental/Lindemann/Init/AnalyticalPart.lean [hunk 3]
```diff
@@ -0,0 +1,206 @@
...
+
+* `q` does not divide `n(q)`
+* `deg(g(q)) < q * deg(p)`
+* all complex roots `r` of `p` satisfy `|n(q) * e ^ r - q * g(q)(r)| ≤ c ^ q / (q - 1)!`
+
+In the proof of Lindemann-Weierstrass, we will take `p` to be a polynomial whose complex roots
+are the algebraic numbers whose exponentials we want to prove to be linearly independent.
+
+Note: Jacobson writes `f` for our `p`, `p` for our `q`, `N_p` for our `n(q)`, `g_p` for our `g(q)`
+and `M` for our `c` (modulo a constant factor).
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Transcendental/Lindemann/Init/AnalyticalPart.lean:151]: I wouldn't mind calling the polynomial `f` instead of `p`. Especially if there is also a prime floating around. Hopefully this shouldn't be hard, using the LSP rename feature.
And then the prime can be called `p` instead of `q`.
I don't care strongly about `M` vs `c`. (In fact, I would have a slight pref for `c`.)

If you agree, then please also rename the polynomials higher up in the file.

**Review by jcommelin — COMMENTED** [review]
Thanks for this PR! Another piece of the puzzle!

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
